US08557805B2
2-(Benzyloxy)-4-[4-(methylsulfonyl)phenoxy]aniline
A mixture of 2-(benzyloxy)-4-[4-(methylsulfonyl)phenoxy]-1-nitrobenzene (11.0 g), iron powder (7.6 g), calcium chloride (0.3 g), water (30 mL), and ethanol (120 mL) was stirred at 80° C. for 2 hr. The reaction solution was filtered through celite, and the filtrate was concentrated. Water was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was crystallized from toluene and the obtained crystals were washed with diethyl ether to give the title compound (9.3 g, yield 92%) as pale-brown crystals.

reactant | 2-(benzyloxy)-4-[4-(methylsulfonyl)phenoxy]-1-nitrobenzene | 11.0 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC1=CC=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C20H17NO6S
reactant | calcium chloride | 0.3 g | [Cl-].[Ca+2].[Cl-]
reactant | water | 30 mL | O | H2O
catalyst | iron | 7.6 g | [Fe] | Fe
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | 2-(Benzyloxy)-4-[4-(methylsulfonyl)phenoxy]aniline | 9.3 g, yield 92% | C(C1=CC=CC=C1)OC1=C(N)C=CC(=C1)OC1=CC=C(C=C1)S(=O)(=O)C | C20H19NO4S
